US05470980
Bis(1,2,2,6,6-pentamethylpiperidin-4-yl) Azodicarboxylate
To a solution of 30.0 g bis(1,2,2,6,6-pentamethylpiperidin-4-yl) hydrazine-1,2-dicarboxylate in 60 mL of methylene chloride is added 16.0 g (10.8 mL), of trifluoroacetic acid at 0°-5° C., followed the addition of 22.6 g of iodobenzene diacetate at room temperature. After stirring at room temperature for 2.5 hours, the reaction mixture is washed with saturated sodium bicarbonate solution and then with brine, and dried over anhydrous magnesium sulfate. The dried solution is evaporated to afford a pale yellow oil. Trituration with acetonitrile affords 7.0 g of the title compound as a pale yellow solid; mp 135°-137° C. NMR and IR analyses are consistent with the desired structure.

reactant | bis(1,2,2,6,6-pentamethylpiperidin-4-yl) hydrazine-1,2-dicarboxylate | 30.0 g | N(NC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C22H42N4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | iodobenzene diacetate | 22.6 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | Bis(1,2,2,6,6-pentamethylpiperidin-4-yl) Azodicarboxylate | 7.0 g | N(=NC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C22H40N4O4
